US07790895B2
To a solution of 3-(3-formyl-pyridin-4-yl)-benzonitrile (50 mg, 0.24 mmol) in THF (2 mL) at −78° C. was added 1.0 M 4-fluorophenylmagnesium bromide in THF (0.5 mL). The reaction mixture was quenched with ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography eluted with 5% methanol in dichloromethane to yield 3-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-pyridin-4-yl}-benzonitrile as a colorless oil.

reactant | 3-(3-formyl-pyridin-4-yl)-benzonitrile | 0.24 mmol, 50 mg | C(=O)C=1C=NC=CC1C=1C=C(C#N)C=CC1 | C13H8N2O
reactant | 4-fluorophenylmagnesium bromide | 1.0 M | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-pyridin-4-yl}-benzonitrile | FC1=CC=C(C=C1)C(C=1C=NC=CC1C=1C=C(C#N)C=CC1)O | C19H13FN2O
